US07851484B2
5-Chloro-4-iodo-3-(pentan-3-ylamino)picolinamide.
To a solution of 5-chloro-4-iodo-3-(pentan-3-ylamino)picolinonitrile (55 mg, 0.16 mmol) in DMSO (1 mL) was added solid potassium carbonate (210 mg, 0.64 mmol). The mixture was cooled in an ice water bath (0° C.) and aqueous hydrogen peroxide (30%, 0.5 mL) was added. The reaction was allowed to warm to room temperature and monitored by LCMS. After the reaction was complete, the reaction mixture was diluted with EtOAc, and the organic layer was washed repeatedly with water. The organic layer was then dried over sodium sulfate, filtered and concentrated in vacuo. The residue was filtered through a silica gel plug to provide the title compound as a white solid (50 mg, 83%). m/z=368.1 [M+H]+ and 1H NMR.

reactant | 5-chloro-4-iodo-3-(pentan-3-ylamino)picolinonitrile | 0.16 mmol, 55 mg | ClC=1C(=C(C(=NC1)C#N)NC(CC)CC)I | C11H13ClIN3
reactant | potassium carbonate | 0.64 mmol, 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 0.5 mL | OO | H2O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Chloro-4-iodo-3-(pentan-3-ylamino)picolinamide | 50 mg, 83% | ClC=1C(=C(C(=NC1)C(=O)N)NC(CC)CC)I | C11H15ClIN3O
